US05763651
45.1 g (0.45 mol) of 2-methyl-3-butenoic acid, 45.33 g (0.56 mol) of 2-chloroethanol and 4.1 g (34 mmol) of dimethyl-aminopyridine were placed in 450 ml of diethyl ether under argon. 102.2 g (0.495 mol) of N,N-dicyclohexylcarbodiimide were added thereto in 5 portions at 0° C. within 30 minutes, the mixture was stirred at room temperature for a further 2 hours and the separated urea was filtered off. The filtrate was washed in succession with 200 ml of 0.5N aqueous hydrochloric acid, 100 ml of saturated sodium bicarbonate solution and 100 ml of saturated sodium chloride solution. The organic solution was dried over anhydrous 2 0 sodium sulphate and, after concentration, the product was distilled on a Vigreux column (20 cm) at 80°-81° C./10 mbar. This gave 62.3 g (83% yield) of 2-methyl-but-3-enoic acid 2-chloroethyl ester as a colourless oil with a content of 97.5% according to GC.

reactant | 2-methyl-3-butenoic acid | 0.45 mol, 45.1 g | CC(C(=O)O)C=C | C5H8O2
reactant | 2-chloroethanol | 0.56 mol, 45.33 g | ClCCO | C2H5ClO
solvent | diethyl ether | 450 ml | C(C)OCC | C4H10O
catalyst | dimethyl-aminopyridine | 34 mmol, 4.1 g | CC1=C(C(=NC=C1)N)C | C7H10N2
product | 2-methyl-but-3-enoic acid 2-chloroethyl ester | 62.3 g, 83% yield | ClCCOC(C(C=C)C)=O | C7H11ClO2
